US06458814B1
a) Ethyl (±)-3-phenyl-4-[4-[[[3-(pyridin-2-yl)amino-1-propyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoate
To a solution of ethyl (±)-4-(4-carboxy-1,3-oxazol-2-yl)-3-phenylbutanoate (100 mg, 0.33 mmole) in CH2Cl2 (2 mL) was added 1,1′-carbonyldiimidazole (80 mg, 0.49 mmole). After 2 hr, Et3N (0.14 mL, 0.98 mmole) and 2-[(3-amino-1-propyl)amino]pyridine dihydrochloride (110 mg, 0.49 mmole) were added. After 4 h, the mixture was concentrated under reduced pressure. The residue was chromatographed on silica gel (75% EtOAc/hexanes) to give the title compound (131 mg, 91%) as a yellow oil: MS (ES) m/e 437 (M+H)+.

reactant | ethyl (±)-4-(4-carboxy-1,3-oxazol-2-yl)-3-phenylbutanoate | 0.33 mmole, 100 mg | C(=O)(O)C=1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C16H17NO5
reactant | 1,1′-carbonyldiimidazole | 0.49 mmole, 80 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Et3N | 0.98 mmole, 0.14 mL | CCN(CC)CC | C6H15N
reactant | 2-[(3-amino-1-propyl)amino]pyridine dihydrochloride | 0.49 mmole, 110 mg | Cl.Cl.NCCCNC1=NC=CC=C1
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (±)-3-phenyl-4-[4-[[[3-(pyridin-2-yl)amino-1-propyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoate | 131 mg, 91% | C1(=CC=CC=C1)C(CC(=O)OCC)CC=1OC=C(N1)C(=O)NCCCNC1=NC=CC=C1 | C24H28N4O4
